US04837225
N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-N'-(4-carboxyphenyl)thiourea
2.8 g (0.008 mol) of N-(2-(2,5-dimethyl-1-pyrolyl)ethyl)-N'-(4-ethoxycarbonylphenyl)thiourea, prepared as in Example 9, are stirred with 10 ml of 1 N sodium hydroxide solution at room temperature for 5 h and under reflux for 15 min. After cooling, the mixture is filtered, and the filtrate is acidified and the product is filtered off with suction. yield: 1.9 g (75% of theory), Melting point: 174°-175° C. Elemental analysis: C16H19N3O2S (317.41) calculated C 60.5 H 6.0 N 13.2 0 10.1 S 10.1 found: C 59.9 H 5.9 N 13.6 0 10.7 S 9.9

reactant | N-(2-(2,5-dimethyl-1-pyrolyl)ethyl)-N'-(4-ethoxycarbonylphenyl)thiourea | 0.008 mol, 2.8 g | CC=1N(C(=CC1)C)CCNC(=S)NC1=CC=C(C=C1)C(=O)OCC | C18H23N3O2S
solvent | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
product | N-(2-(2,5-Dimethyl-1-pyrrolyl)ethyl)-N'-(4-carboxyphenyl)thiourea | CC=1N(C(=CC1)C)CCNC(=S)NC1=CC=C(C=C1)C(=O)O | C16H19N3O2S
